data/mechanisms/records/IMS8-EQT8.2n.json
{"mechanism_id": "IMS8-EQT8.2n", "species": [{"species_id": "hexanal_radical_cation", "mapped_smiles": "[CH:1](=[O+:6])[CH2:2][CH2:3][CH:4]([1H:10])[CH2:7][CH3:8]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "distonic_enol_radical_cation", "mapped_smiles": "[CH2:2][CH:1]=[O+:6][1H:10]", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "but_1_ene", "mapped_smiles": "[CH2:3]=[CH:4][CH2:7][CH3:8]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["hexanal_radical_cation"]}, {"state_id": "state_products", "species_ids": ["distonic_enol_radical_cation", "but_1_ene"]}], "steps": [{"step_id": "step_mclafferty", "from_state": "state_precursor", "to_state": "state_products", "step_class": "mclafferty_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "radical_orbital", "atom_maps": [6]}, "target": {"type": "bond", "atom_maps": [6, 10]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [4, 10]}, "target": {"type": "bond", "atom_maps": [6, 10]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [4, 10]}, "target": {"type": "atom", "atom_maps": [4]}, "electron_count": 1}, {"source": {"type": "radical_orbital", "atom_maps": [4]}, "target": {"type": "bond", "atom_maps": [3, 4]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 3]}, "target": {"type": "bond", "atom_maps": [3, 4]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 3]}, "target": {"type": "atom", "atom_maps": [2]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_mclafferty", "support_type": "textbook_proposed", "locator": {"page": 167, "equation": "Table 8.2", "figure": null, "panel": null, "section": "8.3 (Two bonds cleaved; OE+. alpha-alpha(re))"}, "confidence": 0.8, "curator_note": "Table 8.2 (p.167, Two bonds cleaved, OE+. alpha-alpha with H rearrangement) = the McLafferty rearrangement. Book draws 4 fishhook arcs; moves 1,2 (O+. abstracts the gamma-H) and moves 4,5 (the gamma-radical drives beta-cleavage) are drawn, move 3 (the C(gamma)-H electron staying on C(gamma)) and move 6 (the C(alpha)-C(beta) electron staying on C(alpha)) are the implicit homolysis hooks required for electron balance (not drawn). The product is drawn in the book as [.CH2-C(R')=O]+ (a distonic radical cation, radical on the former alpha-carbon); the book's box omits the O-H that the transferred gamma-H must produce, so as literally drawn it is short one H -- encoded here as the mass-balanced distonic ion [.CH2-CH=OH]+ (C2H4O), isomeric with the enol radical cation. Charge-retention channel drawn; charge migration (RHC=CH2+.) is the drawn alternative. Migrating gamma-H carried as isotope [1H:10]. Instantiation = hexanal radical cation (R'=H, R=ethyl); no m/z / intensity printed -- m/z curator-computed."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "electron ionization", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 100.0883, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_enol", "species_id": "distonic_enol_radical_cation", "step_id": "step_mclafferty", "observed_mz": 44.0257, "relative_intensity": null, "hydrogen_shift": 1, "isotope_offset": 0, "status": "inferred", "confidence": 0.6}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-26T00:00:00Z", "modified_at": "2026-07-26T00:00:00Z"}}
